US07005432B2
5-(4-Fluoro-naphthalen-1-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=319.3 (M+H+), was prepared from 2-(4-fluoro-naphthalen-1-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-(4-fluoro-naphthalen-1-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC1=CC=C(C2=CC=CC=C12)B1OC(C(O1)(C)C)(C)C | C16H18BFO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(4-Fluoro-naphthalen-1-yl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.FC1=CC=C(C2=CC=CC=C12)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C19H15FN4.ClH/c1-13-21-8-9-24(13)12-15-10-14(11-22-23-15)16-6-7-19(20)18-5-3-2-4-17(16)18;/h2-11H,12H2,1H3;1H
